US05631259
The palladium(0) catalyst is prepared by bringing together 179.6 mg of palladium(II) acetate, 2 ml of triisopropyl phosphite and 1.06 ml of a 1.4 molar solution of butyllithium in n-hexane in 60 ml of dry tetrahydrofuran at 0° C. under argon. 60 ml of dry dimethylsulfoxide and 17.32 g (0.128 mol) of adenine are then added. After stirring for 15 minutes, 12.3 g (0.128 mol) of 3,4-epoxycyclohexene, dissolved in 40 ml of dry tetrahydrofuran, are added dropwise (3 hours). The suspension is stirred at room temperature for 24 hours, poured into 650 ml of ethanol and stirred and the precipitate (1 g of adenine) is filtered off with suction. The filtrate is concentrated and the residue is chromatographed over aluminum oxide using methylene chloride/methanol 15/1. 7.96 g (36.9% of theory) of 9-[(1RS,4SR)-4-hydroxycyclohex-2-en-1-yl]adenine of melting point 181° to 183° C. are obtained. 1H NMR (270 MHz, d6 -DMSO); δ[ppm]: 8.15 (s, 1H), 8.04 (s, 1H), 7.22 (s, 2H), 6.09 (m, 1H), 5.84 (m, 1H), 5.06 (m, 1H), 4.93 (d, 1H), 4.09 (m, 1H), 1.99 (m, 2H), 1.81 (m, 1H),, 1.56 (m, 1H).

reactant | triisopropyl phosphite | 2 ml | P(OC(C)C)(OC(C)C)OC(C)C | C9H21O3P
reactant | butyllithium | C(CCC)[Li]
reactant | adenine | 0.128 mol, 17.32 g | N1=CN=C2N=CNC2=C1N | C5H5N5
reactant | 3,4-epoxycyclohexene | 0.128 mol, 12.3 g | O1C2C=CCCC21 | C6H8O
catalyst | palladium(0) | [Pd] | Pd
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
catalyst | palladium(II) acetate | 179.6 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethanol | 650 ml | C(C)O | C2H6O
solvent | dimethylsulfoxide | 60 ml | CS(=O)C | C2H6OS
product | 9-[(1RS,4SR)-4-hydroxycyclohex-2-en-1-yl]adenine | 7.96 g, 36.9% | OC1C=CC(CC1)N1C2=NC=NC(=C2N=C1)N | C11H13N5O
